Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.24653480251
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.50634712519
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.66130515907
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.70853885201
[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17],-6.206877406619999
[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2].[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],7.62858004471
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11],0.1602562968799999
[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][C:5][O:6][H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-6.9554550822
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],7.24748093448
[O:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7][C:8]1([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([C:7])([H:9])[H:10],3.55967947677
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.99422519339
[C:10]([H:11])[H:12].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.621371852869999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.77076767355
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.5792556101
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.8844656747500004
[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.88478541707
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],1.81365515485
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],0.0778583291093999
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8],4.19911757815
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[O:10],2.60118624783
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],3.76577852388
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],-2.36424074261
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.435414152219999
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],3.00410025105
[H:1][C:2]1[C:3]2[C:4]1[C:5]2([H:6])[H:7]>>[H:1][C:2]#[C:3][C:5]([C:4])([H:6])[H:7],1.77261778991
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],4.210765160219999
[O:1]=[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:5])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:9],5.26808634979
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8][H:9]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.657645729
